US05013863
To a solution of 262 g of ethyldichlorophosphine in 1200 ml of diethylether is added with stirring and cooling with ice at 5-10° a solution of 370 ml of isopropanol and 280 ml of triethylamine in 400 ml of diethylether. The reaction is exothermic. After stirring for 12 hours at 20° the white precipitate is filtered off and the filtrate is fractionally distilled. There is obtained ethylphosphonous acid-isopropylester as a colorless liquid, b.p. 80-85°/26 kPa. To 34 g of ethylphosphonous acid-isopropylester and 16.45 ml of acrylonitrile is added with stirring 40 ml of isopropanol containing 0.25 mol of sodium isopropylate. The reaction is exothermic. After 1 hour stirring at 20° the mixture is fractionated. There is obtained isopropyl 2-cyanoethyl(ethyl)phosphinate as a colorless oil, b.p. 102-104°/10 Pa.

reactant | ethylphosphonous acid-isopropylester | 34 g | C(C)(C)OP(O)CC | C5H13O2P
reactant | acrylonitrile | 16.45 ml | C(C=C)#N | C3H3N
reactant | isopropanol | 0.25 mol, 40 ml | C(C)(C)O | C3H8O
reactant | sodium | [Na] | Na
product | isopropyl 2-cyanoethyl(ethyl)phosphinate | C(#N)CCP(OC(C)C)(=O)CC | C8H16NO2P
